US08461179B1
A 0° C. solution of 2-(2-chloro-4-fluoro-5-nitrophenyl)acetic acid (20.5 g, 88 mmol) in EtOH (150 mL) was treated with sulfuryl dichloride (21 g, 0.17 mol), then heated to reflux for 1 h. The reaction mixture was concentrated under reduced pressure and treated with satd. Na2CO3 to pH 7-8. The resultant mixture was extracted with EtOAc (3×) and the combined organic layers were washed with brine, dried (MgSO4) and concentrated to give ethyl 2-(2-chloro-4-fluoro-5-nitrophenyl)acetate (22.5 g, 98% yield). 1H NMR (400 Hz, DMSO-d6): δ 8.32 (d, J=8.0 Hz, 1H), 7.91 (d, J=11.2 Hz, 1H), 4.09 (q, J=7.2 Hz, 2H), 3.92 (s, 2H), 1.17 (t, J=7.2 Hz, 3H).

reactant | 2-(2-chloro-4-fluoro-5-nitrophenyl)acetic acid | 88 mmol, 20.5 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(=O)O | C8H5ClFNO4
reactant | sulfuryl dichloride | 0.17 mol, 21 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | EtOH | 150 mL | CCO | C2H6O
product | ethyl 2-(2-chloro-4-fluoro-5-nitrophenyl)acetate | 22.5 g, 98% yield | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(=O)OCC | C10H9ClFNO4
